US08871187B2
1-2-1 3-Hydroxy-3-phenyl-1-(tert-butoxycarbonyl)-azetidine
3.9 ml (11.7 mmol) of a 3M solution of phenylmagnesium bromide in diethyl ether are added dropwise to a solution, immersed in a bath at −50° C., containing 500 mg (2.92 mmol) of 3-oxo-1-(tert-butoxycarbonyl)azetidine in 10 ml of THF. The medium is stirred for 1 hour at −50° C. and hydrolysed by adding a saturated solution of ammonium chloride. After a return to ambient temperature, a 1N solution of hydrochloric acid is added, followed by extraction with ethyl acetate. The organic phase is dried and evaporated to dryness. The crude product obtained is purified on silica in a 7/3 heptane/ethyl acetate mixture. 253 mg in the form of a white powder are obtained with a yield of 35%.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 3-oxo-1-(tert-butoxycarbonyl)azetidine | 2.92 mmol, 500 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-phenyl-1-(tert-butoxycarbonyl)-azetidine | yield of 35% | OC1(CN(C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C14H19NO3
